US08440417B2
Step 2: Preparation of (2-phenylpyrimidin-5-yl)(piperazin-1-yl)methanone (Compound 13)
To a mixture consisting of tert-butyl 4-(2-phenylpyrimidine-5-carbonyl)piperazine-1-carboxylate (587 mg) in dichloromethane (8 mL) at 0° C. was added trifluoroacetic acid (7 mL). The mixture was stirred cold for one hour and was subsequently concentrated under reduced pressure to provide a residue, which was purified by flash silica column chromatography. Elution with 95:5 dichloromethane-methanol with 0.5% concentrated ammonium hydroxide afforded the title compound (400 mg, 94% yield); MS (ESI+) m/z 269 (M+1); HPLC (Column: 2.1×150 mm, 3μGeminiC18; detection wavelength: 210 nm; mobile phase A: 90/10H2O/CH3CN 10 mM NH4OAc; mobile phase B: 10/90H2O/CH3CN 10 mM NH4OAc; gradient: 0-6 minutes 0-100% B, 6-10 minutes 100% B, 10.1-15 minutes 0% B; flow rate: 0.25 mL/min) purity: 98.5%, retention time: 9.7 minutes.

reactant | tert-butyl 4-(2-phenylpyrimidine-5-carbonyl)piperazine-1-carboxylate | 587 mg | C1(=CC=CC=C1)C1=NC=C(C=N1)C(=O)N1CCN(CC1)C(=O)OC(C)(C)C | C20H24N4O3
reactant | trifluoroacetic acid | 7 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | (2-phenylpyrimidin-5-yl)(piperazin-1-yl)methanone | 400 mg, 94% yield | C1(=CC=CC=C1)C1=NC=C(C=N1)C(=O)N1CCNCC1 | C15H16N4O
